US06753331B1
By an analogous method, starting from 4-(1-imidazolyl)benzoic acid hydrochloride and 1-(5-chloroindol-2-ylsulphonyl)piperazine, was prepared 1-(5-chloroindol-2-ylsulphonyl)-4-[4-(1-imidazolyl)benzoyl]piperazine (375 mg, 60% yield) as colourless crystals from acetone; m.p. 155-165° C., 1H NMR (d6DMSO) 3.0-3.2 ppm (broad s, 4H), 3.4-3.8 ppm (broad s, 4H), 7.0 ppm (s, 1H), 7.1 ppm (s, 1H), 7.3 ppm (dd, 1H), 7.5 ppm (m, 3H), 7.7 ppm (d, 2H), 7.8 ppm (m, 2M), 8.3 ppm (s, 1H), 12.4 ppm (broad s, 1H), the spectrum also contained a signal due to acetone, ca 0.05 mol. eq.; MS (M+H)+ 470/472.

reactant | 4-(1-imidazolyl)benzoic acid hydrochloride | Cl.N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1
reactant | 1-(5-chloroindol-2-ylsulphonyl)piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | C12H14ClN3O2S
solvent | acetone | CC(=O)C | C3H6O
product | 1-(5-chloroindol-2-ylsulphonyl)-4-[4-(1-imidazolyl)benzoyl]piperazine | 375 mg, 60% yield | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)N1C=NC=C1)=O | C22H20ClN5O3S
